US07968563B2
A solution of ethyl 3-(2-methyl-1,3-dioxolan-2-yl)propanoate (68.9 g, 366 mmol) in methanol (73 mL) was cooled to approximately 0° C. A warm solution of sodium hydroxide (14.63 g, 366 mmol) in water (73 mL) was added dropwise over a period of three hours. The reaction was then allowed to warm to room temperature and stirred for 17 hours. The methanol was removed under reduced pressure, and the resulting aqueous solution was diluted with water (400 mL) and washed with ethyl acetate (150 mL). The aqueous solution was then cooled to approximately 0° C. and adjusted to pH 2 with the addition of sulfuric acid (180 mL of 1 M). The resulting mixture was extracted with ethyl acetate (2×150 mL), and the combined extracts were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 38.6 g of 3-(2-methyl-1,3-dioxolan-2-yl)propanoic acid as a light yellow oil.

reactant | ethyl 3-(2-methyl-1,3-dioxolan-2-yl)propanoate | 366 mmol, 68.9 g | CC1(OCCO1)CCC(=O)OCC | C9H16O4
reactant | sodium hydroxide | 366 mmol, 14.63 g | [OH-].[Na+]
solvent | methanol | 73 mL | CO | CH4O
solvent | water | 73 mL | O | H2O
product | 3-(2-methyl-1,3-dioxolan-2-yl)propanoic acid | 38.6 g | CC1(OCCO1)CCC(=O)O | C7H12O4
